US07700780B2
N-(3-hydroxypropanyl)-2,4-dimethylpyridinium bromide (Ii)
3-Bromopropanol (3,5 equivalents) was dissolved in some toluene in a round-bottomed flask flushed with nitrogen. Then, lutidine (1 equivalent) was added and the mixture was heated to reflux. After several hours, an off-white product appeared in the flask as a sticking solid. The reaction was stopped after 18 hours. The solvent was removed under the reduced pressure and ether was added to precipitate out the solids. After washing with ether, the product as off-white powders were dried. The yield of the reaction is 83%. The product is soluble in acetone, methanol and acetonitrile but not in diethyl ether. 1H NMR (CDCl3, 200 MHz): δ 2.24 (m, 2H), 2.61 (s, 3H), 3.03(s, 3H), 3.70 (t, 2H, J=4.86), 5.14 (t, 2H, J=7.26), 7.67 (s, 1H), 7.81(d, 1H, J=6.06), 9.65 (d, 1H, J=6.52); IR (CHCl3, cm−1): 1642 (C═C) (C═N), 3432 (O—H).

reactant | 3-Bromopropanol | 3,5 equivalents | BrCCCO | C3H7BrO
reactant | lutidine | 1 equivalent | N1=C(C=CC=C1C)C | C7H9N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(3-hydroxypropanyl)-2,4-dimethylpyridinium bromide | [Br-].OCCC[N+]1=C(C=C(C=C1)C)C | InChI=1S/C10H16NO.BrH/c1-9-4-6-11(5-3-7-12)10(2)8-9;/h4,6,8,12H,3,5,7H2,1-2H3;1H/q+1;/p-1
